US06348468B1
Preparation of methyl 4-(4-methoxyphenyl)-4-oxo-3-(4-pyridyl)butanoate
Under an argon, 2-(4-pyridyl)-4′-methoxyacetophenone (J. Am. Chem. Soc., 112, 2163-3168, 1990: Dimitrios Stefanidis and John W. Bunting; 9.6 g, 42.3 mmol) was suspended in tetrahydrofuran (200 ml), and under ice cooling, lithium diisopropylamide (2.0 M solution; 25 ml, 50.0 mmol) was added. At the same temperature, the mixture was stirred for 30 minutes. Methyl bromoacetate (6.0 ml, 63.4 mmol) was then added dropwise, and the mixture was stirred under ice cooling for 1 hour and then at room temperature for 2 hours. The reaction mixture was diluted with toluene. The mixture was washed successively with 2 N hydrochloric acid, water and a brine, and was then dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was separated and purified by chromatography on a silica gel column [silica gel: 100 g, hexane/ethyl acetate (1/2)], whereby the title compound (10.63 g, 84.1%) was obtained as a brown oil.

reactant | 2-(4-pyridyl)-4′-methoxyacetophenone | 42.3 mmol, 9.6 g | N1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)OC | C14H13NO2
reactant | lithium diisopropylamide | 50.0 mmol, 2.0 M, 25 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Methyl bromoacetate | 63.4 mmol, 6.0 ml | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(4-methoxyphenyl)-4-oxo-3-(4-pyridyl)butanoate | COC1=CC=C(C=C1)C(C(CC(=O)OC)C1=CC=NC=C1)=O | C17H17NO4
